Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with prior history of cocaine abuse presents from jail with 
chest pain. He awoke from sleep at 1AM with sharp sub sternal 
chest pain, ___ in intensity, non-radiating, worse with deep 
inspiration. Pain has been constant. Never had this type of pain 
before. No recent chest wall injuries or strenuous activities. 
Went to ___ and had a concerning EKG with ?STE and 
hyperacute T's that didn't meet criteria. Got ASA, had negative 
trop @ 0230, negative d-dimer. Pain unrelieved with nitro, 
morphine, dilaudid so patient transferred to ___ for further 
eval.  
 
In the ED intial vitals were: 97 58 100/69 16 100%  
Labs were significant for WBC 12.1, Troponin <.01, Phos 1.4  
Patient was given: Dilaudid IV and lorazepam  
Vitals on transfer: 66 120/64 7 98%  

On the floor patient reports improvement in chest pain, now 
___. Denies fever, chills, cough, SOB, orthopnea.  

 
Past Medical History:
None
 
Social History:
___
Family History:
MGF- CAD
Father- cirrhosis
Mother- lung cancer 
 
Physical Exam:
Admission:
VS: T=97.6 BP=107/62 HR=68 RR=18 O2 sat=99% RA  
General: Well developed male in NAD 
HEENT: EOMI, PERRL, sclera anicteric 
Neck: JVP not elevated, supple, no LAD 
CV: RRR, normal S1 and S2, no mrg. Chest wall is mildly tender 
to palpation over left and right margins of sternum and xyphoid 
process 
Lungs: CTAB, no wheezes or rales 
Abdomen: Soft, nontender, non-distended, no palpable 
organomegaly 
GU: No foley  
Ext: Warm, well perfused, no edema, 2+ DP pulses 

Discharge:
General: Well developed male in NAD 
HEENT: EOMI, PERRL, sclera anicteric 
Neck: JVP not elevated, supple, no LAD 
CV: RRR, normal S1 and S2, no mrg. Chest wall is mildly tender 
to palpation over left and right margins of sternum and xyphoid 
process 
Lungs: CTAB, no wheezes or rales 
Abdomen: Soft, nontender, non-distended, no palpable 
organomegaly 
GU: No foley  
Ext: Warm, well perfused, no edema, 2+ DP pulses 

 
Pertinent Results:
Admission:
___ 04:35AM BLOOD WBC-12.1* RBC-4.66 Hgb-14.3 Hct-42.7 
MCV-92 MCH-30.6 MCHC-33.5 RDW-11.8 Plt ___
___ 04:35AM BLOOD Neuts-86.0* Lymphs-9.9* Monos-3.3 Eos-0.2 
Baso-0.5
___ 04:35AM BLOOD Glucose-91 UreaN-17 Creat-0.9 Na-138 
K-4.1 Cl-104 HCO3-22 AnGap-16
___ 04:35AM BLOOD CK(CPK)-98
___ 04:35AM BLOOD cTropnT-<0.01
___ 04:35AM BLOOD CK-MB-2
___ 04:35AM BLOOD Calcium-9.3 Phos-1.4* Mg-1.6

Imaging: 
Surface Echo ___:
IMPRESSION: Normal biventricular regional/global systolic 
function.  

CTA ___:
1.  No evidence of acute aortic syndrome. 
2.  Heart size is top normal with a dilated right atrium.  No 
pericardial 
effusion.   
3.  No focal consolidation.  Bilateral centrilobular nodules may 
represent respiratory bronchiolitis in the setting of smoking 
history.  Mild paraseptal emphysema. 

Discharge:
___:05PM BLOOD CK-MB-2 cTropnT-<0.___ with prior history of cocaine abuse presents from jail with 
chest pain. 

#Chest Pain: Most likely costochondtritis versus other 
musculoskeletal pain. Pain is atypical for angina given lack of 
association with exertion, lack of improvement with nitro and 
reproducibility on exam albeit patient is at risk of CAD with 
history of cocaine use. CTA is unrevealing for aortic dissection 
or PE and troponin is negative x3 along with a normal surface 
ECHO which are reassuring. ECG shows submillimeter ST elevations 
that are concave up and may be normal variant. Patient was 
started on daily aspirin daily 81mg and pain was improved with 
tylenol and ibuprofen. Patient should continue to take ibuprofen 
as needed for pain anti-inflammatory effect.

#Hypophosphatemia: Patient was repleted with neutraphos.

#Psych: Continue home seroquel  

Transitional Issues:
-Patient was ruled out for MI with negative trop x3. EKG showed 
precordial J-point elevation which may be normal variant. 
-Patient was started on aspirin 81 mg daily
-Patient was advised to take ibuprofen for pain
-Patient will need to establish PCP once released from jail
-Full code
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. QUEtiapine Fumarate 0 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet,delayed release (___) by mouth 
once a day Disp #*30 Tablet Refills:*0
3. Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0
4. Acetaminophen 650 mg PO Q6H:PRN pain 
RX *acetaminophen 650 mg 1 tablet extended release(s) by mouth 
every six (6) hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for chest pain. Based on your 
physical examination, EKG, ultrasound of your heart and blood 
tests we do not feel that your chest pain is related to a heart 
attack. Your pain may be from inflammation of you muscles or 
cartilage. Please take ibuprofen as needed for pain which will 
help with the inflammation. Please establish a primary care 
physician when you are released from jail. 
 
Followup Instructions:
___